US07192976B2
3-(2-chloro-5-trifluoromethylphenyl)acrylaldehyde.
To a solution of 2-chloro-5-trifluoromethylbenzaldehyde (300 mg) in 5 mL THF was added 40 mg of ZnBr2. With stirring, 360 mg of α,α-bis(trimethylsilyl)-t-butylacetaldimine (7) was added, and stirring was continued overnight. The solution was cooled to 10° C., then hydrolyzed by the addition of a solution of ZnCl2 (40 mg) in diethyl ether/water (3 mL each), followed by stirring at room temperature for 1 h. The solids were removed by filtration through Celite and the filtrate extracted with diethyl ether (2×). The combined ether extracts were washed with water and brine, dried over magnesium sulfate, filtered and concentrated to provide the title compound as a light brown oil (220 mg): 1H NMR (CDCl3) δ 6.09 (s, 2H), 6.14 (s, 1 H), 6.86–6.98 (m, 4 H), 7.43 (d, 1 H, J=9.6 Hz), 9.69 (d, 1 H, J=4.5 Hz).

reactant | 2-chloro-5-trifluoromethylbenzaldehyde | 300 mg | ClC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4ClF3O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether water | 3 mL | C(C)OCC.O
catalyst | ZnBr2 | 40 mg | [Zn+2].[Br-].[Br-]
catalyst | ZnCl2 | 40 mg | [Cl-].[Cl-].[Zn+2]
product | 3-(2-chloro-5-trifluoromethylphenyl)acrylaldehyde | 220 mg | ClC1=C(C=C(C=C1)C(F)(F)F)C=CC=O | C10H6ClF3O
